US07485640B2
Bromoacetaldehyde diethyl acetal (45 ml, 0.29 mol) was treated with water (33 ml) and 48% hydrobromic acid (33 ml) and this mixture was heated at 95° C. for 90 min. The reaction was cooled, diluted with propan-2-ol (300 ml) and treated with sodium hydrogencarbonate (33 g) added in portions. This mixture was stirred for 30 min then filtered. The filtrate was treated with 2-amino-3-chloropyrazine (25 g, 0.19 mol) and then heated at 90° C. for 16 h. The reaction was cooled to ambient temperature, concentrated to about one-third volume and then treated with 48% hydrobromic acid (25 ml). More propan-2-ol (300 ml) was added and the mixture aged for 1 h. The resulting solid was collected by filtration, washed with propan-2-ol and then dissolved in water (500 ml). This solution was made basic by adding solid sodium hydrogencarbonate and then extracted with chloroform (3×250 ml). The organics were combined, dried over anhydrous magnesium sulphate, filtered and concentrated to give a solid. Trituration with diethyl ether afforded 8-chloroimidazo[1,2-a]pyrazine as an off-white solid (18.6 g, 63%): δH (360 MHz, DMSO) 7.73 (1H, d, J 4.5), 7.87 (1H, d, J 1), 8.28 (1H, d, J 1), 8.67 (1H, d, J 4.5).

reactant | Bromoacetaldehyde diethyl acetal | 0.29 mol, 45 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | hydrobromic acid | 33 ml | Br | BrH
reactant | sodium hydrogencarbonate | 33 g | C(O)([O-])=O.[Na+]
reactant | 2-amino-3-chloropyrazine | 0.19 mol, 25 g | NC1=NC=CN=C1Cl | C4H4ClN3
solvent | propan-2-ol | 300 ml | CC(C)O | C3H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 33 ml | O | H2O
product | 8-chloroimidazo[1,2-a]pyrazine | 18.6 g, 63% | ClC=1C=2N(C=CN1)C=CN2 | C6H4ClN3
